US07378418B2
244F. Preparation of 5-(4-Chlorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one
To a solution of 2-benzyl-5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one (7.0 g, 18.73 mmol) in toluene (50 mL) in a round bottomed flask was added AlCl3 (7.5 g, 56.25 mmol) under a stream of argon. The flask was placed in an oil bath preheated at 80° C. After 2 hours, the reaction mixture was cooled to RT and then poured into crushed ice (200 g). The precipitate formed was collected by filtration, washed with water (2×50 mL) followed by ether (50 mL) and dried in a vacuum oven at 40° C. to give the title compound, 5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one (5.1 g, 96%) as a white solid. HPLC: 1.37 min; MS, M+H=284.

reactant | 2-benzyl-5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one | 18.73 mmol, 7.0 g | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)C1=CC=NC=C1)C1=CC=C(C=C1)Cl | C22H16ClN3O
reactant | AlCl3 | 56.25 mmol, 7.5 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one | 5.1 g, 96% | ClC1=CC=C(C=C1)C1=C(C(NN=C1)=O)C1=CC=NC=C1 | C15H10ClN3O
